US08492372B2
METHYL 4-BROMO-2-FLUORO-6-HYDROXYBENZOATE
Methyl 4-bromo-2,6-difluorobenzoate (0.5 g, 2.0 mmol), 2-butyn-1-ol (0.16 ml, 2.1 mmol), potassium tertbutoxide (0.47 g, 4.2 mmol) in dry DMSO (5 ml) was heated in a microwave oven at 125° C. for 2.5 min. The reaction mixture was cooled to ambient temperature and quenched with water. The mixture was acidified with aqueous HCl (1 M) and extracted with EtOAc, dried (Na2SO4), filtered and evaporated to dryness to afford an oil. Purification by flash column chromatography (isooctane/EtOAc 10:1) gave the title compound (0.19 g, 35%). MS m/z (rel. intensity, 70 eV) 250 (M+, 43), 248 (M+, 44), 218 (96), 216 (bp), 190 (44),188 (45).

reactant | Methyl 4-bromo-2,6-difluorobenzoate | 2.0 mmol, 0.5 g | BrC1=CC(=C(C(=O)OC)C(=C1)F)F | C8H5BrF2O2
reactant | 2-butyn-1-ol | 2.1 mmol, 0.16 ml | C(C#CC)O | C4H6O
reactant | potassium tertbutoxide | 4.2 mmol, 0.47 g | CC(C)([O-])C.[K+]
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | METHYL 4-BROMO-2-FLUORO-6-HYDROXYBENZOATE | 0.19 g, 35% | BrC1=CC(=C(C(=O)OC)C(=C1)O)F | C8H6BrFO3
